US20010027196A1
2-Amino-4-(2-methoxy-ethylamino)-6-thiophen-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-thiophen-2-yl-pyrimidine-5-carbonitrile and 2-methoxyethylamine in dioxane. ES-MS m/e (%): 276 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-thiophen-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C=1SC=CC1 | C10H8N4OS2
reactant | 2-methoxyethylamine | COCCN | C3H9NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Amino-4-(2-methoxy-ethylamino)-6-thiophen-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCCOC)C#N)C=1SC=CC1 | C12H13N5OS
